US08232426B2
8.1 {2-[4-(4-Isopropyl-benzenesulfonylamino)-phenyl]-ethyl}-carbamic acid tert-butyl ester
To a solution of [2-(4-amino-phenyl)-ethyl]-carbamicacid tert-butyl ester (10.75 g, 45.49 mmol) in pyridine (125 ml) at 0° C. 4-isopropyl-benzenesulfonyl chloride (10.45 g, 47.76 mmol) was added. The mixture was stirred at 0° C. for 1 h and 16 h at room temperature. After concentration in vacuo the residue was partitioned between dichloromethane and saturated aqueous NaHCO3. The organic layer was washed with water, dried over MgSO4, filtered and the solvent evaporated under reduced pressure to give the product as a brown oil (20.82 g, 50%).

reactant | [2-(4-amino-phenyl)-ethyl]-carbamicacid tert-butyl ester | 45.49 mmol, 10.75 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)N)=O | C13H20N2O2
reactant | 4-isopropyl-benzenesulfonyl chloride | 47.76 mmol, 10.45 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
product | {2-[4-(4-Isopropyl-benzenesulfonylamino)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 20.82 g, 50% | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C)=O | C22H30N2O4S
